US04593102
4-[(2,5-Dichlorophenyl)thio]piperidine monohydrochloride
A mixture of 200 g (2.13 mole) of phenol, 200 ml of 48% hydrobromic acid and 21.86 g (0.053 mole) of 4-[(2,5-dichlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine were heated at reflux for 1.5 hr. The reaction mixture was diluted to 2 liters volume with ice water and made alkaline with 50% sodium hydroxide. The aqueous layer was extracted with diethyl ether. The ether phase was extracted with 1N sulfuric acid. The resulting aqueous acidic phase was extracted with methylene chloride. The methylene chloride phase was dried, filtered and evaporated to remove solvent to give a brown oil, the free base of the title compound. The free base was converted to 9.36 g (59.1%) of a white crystalline hydrochlorid esalt as in Intermediate 33, m.p. 198°-200° C.

reactant | phenol | 2.13 mole, 200 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-[(2,5-dichlorophenyl)thio]-1-[(4-methylphenyl)sulfonyl]piperidine | 0.053 mole, 21.86 g | ClC1=C(C=C(C=C1)Cl)SC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H19Cl2NO2S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 4-[(2,5-Dichlorophenyl)thio]piperidine monohydrochloride | Cl.ClC1=C(C=C(C=C1)Cl)SC1CCNCC1 | InChI=1S/C11H13Cl2NS.ClH/c12-8-1-2-10(13)11(7-8)15-9-3-5-14-6-4-9;/h1-2,7,9,14H,3-6H2;1H
